US04772597
(1,3-Oxazolidin-2-on-4-yl)methyl p-Toluenesulfonate
p-Toluenesulfonyl chloride (1.01 g, 0.0053 mole) was added to a stirred solution of 2-oxo-1,3-oxazolidin-4-methanol (0.619 g, 0.0053 mole) and 4-dimethylaminopyridine (1.30 g, 0.0106 mole) in 60 ml. methylene chloride at 0° C. under an atmosphere of nitrogen. After 1 hour at 0° C., 0.121 g. more p-toluenesulfonyl chloride was added and the reaction mixture was stirred at 0° C. for 30 min. and at 25° C. for 1 hour. The reaction solution was then washed with two 50 ml. portions of 1N aqueous hydrochloric acid solution, 50 ml. water, 50 ml. saturated aqueous sodium bicarbonate solution and 50 ml. saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo to a white solid of the title compound (1.22 g, 85% yield). NMR (CDCl3): 2.45 (s, 3H); 3.87-4.54 (c, 5H); 6.18 (b, 1H); 7.3 (d, 2H); and 7.73 (d, 2H)ppm.

reactant | p-Toluenesulfonyl chloride | 0.0053 mole, 1.01 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-oxo-1,3-oxazolidin-4-methanol | 0.0053 mole, 0.619 g | O=C1OCC(N1)CO | C4H7NO3
catalyst | 4-dimethylaminopyridine | 0.0106 mole, 1.30 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (1,3-Oxazolidin-2-on-4-yl)methyl p-Toluenesulfonate | 1.22 g, 85% yield | C1(=CC=C(C=C1)S(=O)(=O)OCC1NC(OC1)=O)C | C11H13NO5S
